* C:\Users\circuit\spice\Draft11.asc
V1 N003 0 PULSE(0 1 1n 60p 60p 5n 10n)
VIN1 VINP N002 PULSE(-25m 25m 0 1000n 0 0 1000n)
V2 N002 0 0.9
V3 N001 0 1.8
E1 VINN N002 VINP N002 -1
C1 VOP 0 20f
C2 VON 0 20f
XX1 N003 N001 VINN VINP 0 VON VOP my_comparator
XX2 VOP VOUTP VDD 0 0 VOUTN my_cmos_or
XX3 VOUTN VON VDD 0 0 VOUTP my_cmos_or

* block symbol definitions
.subckt my_comparator CLK VDD VINN VINP VSS VOUTN VOUTP
M2 N002 VINN N005 VSS CMOSN l={L2} w={W2} m={M2}
M3 N005 CLK VSS VSS CMOSN l={L3} w={W3} m={M3}
M4 N001 CLK VDD VDD CMOSP l={L4} w={W4} m={M4}
M5 N002 CLK VDD VDD CMOSP l={L5} w={W5} m={M5}
M1 N001 VINP N005 VSS CMOSN l={L1} w={W1} m={M1}
M6 VOUTP N001 VSS VSS CMOSN l={L6} w={W6} m={M6}
M7 VOUTP VOUTN VSS VSS CMOSN l={L7} w={W7} m={M7}
M8 N003 N001 VSS VSS CMOSN l={L8} w={W8} m={M8}
M9 VOUTP VOUTN N003 VDD CMOSP l={L9} w={W9} m={M9}
M10 N003 N001 VDD VDD CMOSP l={L10} w={W10} m={M10}
M11 VOUTN N002 VSS VSS CMOSN l={L11} w={W11} m={M11}
M12 VOUTN VOUTP VSS VSS CMOSN l={L12} w={W12} m={M12}
M13 N004 N002 VSS VSS CMOSN l={L13} w={W13} m={M13}
M14 VOUTN VOUTP N004 VDD CMOSP l={L14} w={W14} m={M14}
M15 N004 N002 VDD VDD CMOSP l={L15} w={W15} m={M15}
.param L = 0.18u
.param L1 = L
.param W1 = L1*10
.param M1 = 1
.param L2 = L
.param W2 = L2*10
.param M2 = 1
.param L3 = L
.param W3 = L3*10
.param M3 = 1
.param L4 = L
.param W4 = L4*10
.param M4 = 1
.param L5 = L
.param W5 = L5*10
.param M5 = 1
.param L6 = L
.param W6 = L6*10
.param M6 = 1
.param L7 = L
.param W7 = L7*10
.param M7 = 1
.param L8 = L
.param W8 = L8*10
.param M8 = 1
.param L9 = L
.param W9 = L9*10
.param M9 = 1
.param L10 = L
.param W10 = L10*10
.param M10 = 1
.param L11 = L
.param W11 = L11*10
.param M11 = 1
.param L12 = L
.param W12 = L12*10
.param M12 = 1
.param L13 = L
.param W13 = L13*10
.param M13 = 1
.param L14 = L
.param W14 = L14*10
.param M14 = 1
.param L15 = L
.param W15 = L15*10
.param M15 = 1
.include tsmc018.mdl
.ends my_comparator

.subckt my_cmos_or A B VDD VSS Q Q_BAR
M1 Q_BAR B VSS VSS NMOS l=0.18u w=1.8u m=1
M2 Q_BAR A VSS VSS NMOS l=0.18u w=1.8u m=1
M3 Q_BAR B N001 VDD PMOS l=0.18u w=1.8u m=1
M4 N001 A VDD VDD PMOS l=0.18u w=1.8u m=1
M5 Q Q_BAR VSS VSS NMOS l=0.18u w=1.8u m=1
M6 Q Q_BAR VDD VDD PMOS l=0.18u w=1.8u m=1
.ends my_cmos_or

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\circuit\Documents\LTspiceXVII\lib\cmp\standard.mos
.op
.ic V(VOP)=0 V(VON)=1.8
.tran 1000n
.meas offset find V(VINP,VINN) when V(VOUTP)=0.9
*.step param X 1 100 1
.backanno
.end
